US06340759B1
N-(2-Benzyloxyethyl)-4-tributylstannylbenzamide (1.23 g) and 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline (0.49 g) were heated under reflux in the presence of tetrakistriphenylphosphinepalladium(0) (0.13 g) in xylene in nitrogen atmosphere for 3 hr. After cooling, the reaction solution was filtered and concentrated. The resulting residue was purified by silica gel column chromatography (chloroform/methanol system). The resulting product was dissolved in ethyl acetate and extracted with 2N hydrochloric acid. The aqueous layer was washed with ethyl acetate, adjusted to pH 10 with a 8N aqueous solution of sodium hydroxide, and then extracted with ethyl acetate. The extract was washed with a 10% aqueous solution of sodium carbonate and brine, and dried over magnesium sulfate. The solvent was evaporated, to give 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-benzyloxyethyl)carbamoyl]phenyl}isoquinoline (0.17 g) as a pale brown viscous oil.

reactant | N-(2-Benzyloxyethyl)-4-tributylstannylbenzamide | 1.23 g | C(C1=CC=CC=C1)OCCNC(C1=CC=C(C=C1)[Sn](CCCC)(CCCC)CCCC)=O
reactant | 3-bromo-1-(4-ethylpiperazin-1-yl)isoquinoline | 0.49 g | BrC=1N=C(C2=CC=CC=C2C1)N1CCN(CC1)CC | C15H18BrN3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.13 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-ethylpiperazin-1-yl)-3-{4-[N-(2-benzyloxyethyl)carbamoyl]phenyl}isoquinoline | 0.17 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C(NCCOCC1=CC=CC=C1)=O | C31H34N4O2
